US08802728B2
Add H2O (10 mg, 0.560 mmol) and TMSCl (33 mg, 0.308 mmol) to a solution of 3-dimethylaminomethyl-2-(3-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol (73 mg, 0.280 mmol) in 2-butanone (10 mL). Then stir the mixture at room temperature for 2 hours. Evaporate the mixture under vacuum to give 3-dimethylaminomethyl-2-(3-hydroxyl-phenyl)-bicyclo[4.1.0]heptan-2-ol hydrochloride as white solid (83 mg, Yield: 100%). 1H NMR (400 MHz, Methanol-d4) δ 7.21-7.25 (t, J=16.0, 1H), 7.17-7.18 (t, J=4.4, 1H), 7.11-7.13 (m, 1H), 6.76-6.79 (d, J=10.0, 1H), 3.23-3.25 (m, 1H), 2.68-2.69 (m, 7H), 2.14-2.17 (m, 1H), 2.04-2.09 (m, 1H), 1.76-1.81 (m, 1H), 1.62-1.64 (m, 1H), 1.47-1.49 (m, 1H), 1.11-1.16 (m, 1H), 0.93-1.05 (m, 1H), 0.73-0.84 (m, 1H), 0.50-0.53 (m, 1H).

reactant | H2O | 0.560 mmol, 10 mg | O | H2O
reactant | TMSCl | 0.308 mmol, 33 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-dimethylaminomethyl-2-(3-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol | 0.280 mmol, 73 mg | CN(C)CC1C(C2CC2CC1)(O)C1=CC(=CC=C1)O | C16H23NO2
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
product | 3-dimethylaminomethyl-2-(3-hydroxyl-phenyl)-bicyclo[4.1.0]heptan-2-ol hydrochloride | 83 mg, Yield: 100% | Cl.CN(C)CC1C(C2CC2CC1)(O)C1=CC(=CC=C1)O | InChI=1S/C16H23NO2.ClH/c1-17(2)10-13-7-6-11-8-15(11)16(13,19)12-4-3-5-14(18)9-12;/h3-5,9,11,13,15,18-19H,6-8,10H2,1-2H3;1H
